US05847155
(S)-1-[2-(Phenylamino)benzoyl]-2-pyrrolidinemethanol
2.13 g (10 mmol) of N-phenylanthranilic acid, 1.35 g (10 mmol) of 1-hydroxybenzotriazole hydrate, 1.0 ml (10 mmol) of L-prolinol and 2.06 g (10 mmol) of DCC in 50 ml 1:1/methylene chloride:DMF. The coupling was carried out as described in Example 25 for the coupling of the acid and S(+)-2-pyrrolidinemethanol. Clean product of the title compound was obtained in virtually quantitative yield as a brownish gum without chromatographic purification. TLC (90:10/CH2Cl2 :MeOH): Rf =0.75. 1H NMR (CDCl3) δ: 7.50(bs,1H); 6.75-7.36 (m,9H); 4.65-4.80(m,1H); 4.25-4.40 (m,1H); 3.38-3.85(m,4H); 1.55-2.15(m,4H).

reactant | N-phenylanthranilic acid | 10 mmol, 2.13 g | C1(=CC=CC=C1)NC=1C(C(=O)O)=CC=CC1 | C13H11NO2
reactant | 1-hydroxybenzotriazole hydrate | 10 mmol, 1.35 g | O.ON1N=NC2=C1C=CC=C2
reactant | L-prolinol | 10 mmol, 1.0 ml | N1[C@H](CO)CCC1 | C5H11NO
reactant | DCC | 10 mmol, 2.06 g | C1CCC(CC1)N=C=NC2CCCCC2 | C13H22N2
solvent | DMF | CN(C)C=O | C3H7NO
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | (S)-1-[2-(Phenylamino)benzoyl]-2-pyrrolidinemethanol | quantitative yield | C1(=CC=CC=C1)NC1=C(C(=O)N2[C@@H](CCC2)CO)C=CC=C1 | C18H20N2O2
